US07119205B2
To 5′-(2-Cyano-acetylamino)-5-iodo-4-methyl-[2,3′]bithiophenyl-4′-carboxylic acid ethyl ester (1.7 g, 3.7 mmol, Example 222 d) in THF : DMF (1:1, 18.5 ml) under N2 at 0° C. was added NaH (95%, 442 mg, 18.5 mmol). The suspension was allowed to warm to rt with stirring overnight. The reaction was quenched with H2O. The mixture was placed in a separatory funnel, overwhelmed with H2O and extracted with EtOAc. Most of the color is removed with this washing step. The aqueous layer was acidified with 6 M HCl and a solid ppt out which was collected by filtration to give 4-hydroxy-3-(5-iodo-4-methylthien-2-yl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (880 mg, 2.1 mmol, 58%); MS (ESI) m/z 415.0 (M+H+); 1H NMR (300 MHz, DMSO-d6) δ ppm 7.32 (s, 1H), 7.04 (s, 1H), 6.86 (s, 1H), 2.13 (s, 3H).

reactant | 5′-(2-Cyano-acetylamino)-5-iodo-4-methyl-[2,3′]bithiophenyl-4′-carboxylic acid ethyl ester | 3.7 mmol, 1.7 g | C(C)OC(=O)C=1C(=CSC1NC(CC#N)=O)C=1SC(=C(C1)C)I | C15H13IN2O3S2
reactant | NaH | 18.5 mmol, 442 mg | [H-].[Na+]
solvent | THF DMF | 18.5 ml | C1CCOC1.CN(C)C=O
product | 4-hydroxy-3-(5-iodo-4-methylthien-2-yl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 2.1 mmol, 880 mg, 58% | OC=1C2=C(NC(C1C#N)=O)SC=C2C=2SC(=C(C2)C)I | C13H7IN2O2S2
